data/polar.json
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:1](=[O:18])([O:31][CH2:3][c:13]1[cH:22][cH:6][cH:11][cH:9][cH:25]1)[N:36]=[N:35][C:2](=[O:19])[O:32][CH2:4][c:14]1[cH:23][cH:7][cH:12][cH:8][cH:24]1.[c:5]1([S:28](=[O:33])(=[O:34])[CH-:38][c:17]2[cH:15][cH:29][cH:37][cH:30][cH:16]2)[cH:20][cH:26][cH:10][cH:27][cH:21]1>>[C:1]([O-:18])([O:31][CH2:3][c:13]1[cH:22][cH:6][cH:11][cH:9][cH:25]1)=[N:36][N:35]([C:2](=[O:19])[O:32][CH2:4][c:14]1[cH:23][cH:7][cH:12][cH:8][cH:24]1)[CH:38]([c:17]1[cH:15][cH:29][cH:37][cH:30][cH:16]1)[S:28]([c:5]1[cH:20][cH:26][cH:10][cH:27][cH:21]1)(=[O:33])=[O:34]", "epd": [["LP-/Sigma+", [38], [38, 35]], ["Pi-/Pi+", [35, 36], [36, 1]], ["Pi-/LP+", [1, 18], [18]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[C:1]([CH3:2])([CH3:3])=[CH:8][CH:20]=[CH2:9].[cH:4]1[c:10]([CH+:23][c:11]2[cH:5][c:14]([F:18])[cH:22][c:15]([F:19])[cH:6]2)[cH:7][c:12]([F:16])[cH:21][c:13]1[F:17]>>[C+:1]([CH3:2])([CH3:3])[CH:8]=[CH:20][CH2:9][CH:23]([c:10]1[cH:4][c:13]([F:17])[cH:21][c:12]([F:16])[cH:7]1)[c:11]1[cH:5][c:14]([F:18])[cH:22][c:15]([F:19])[cH:6]1", "epd": [["Pi-/Pi+", [8, 1], [20, 8]], ["Pi-/Sigma+", [9, 20], [9, 23]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[CH2:8]1[N:18]2[CH2:9][CH2:22][N:11]([CH2:40][c:14]3[cH:24][cH:28][cH:35][cH:29][cH:25]3)[c:33]3[c:16]2[c:32]([cH:19][n:17][cH:20]3)[N:10]([CH2:39][c:13]2[cH:23][cH:27][cH:34][cH:30][cH:26]2)[CH2:21]1.[O:1]=[S:5](=[O:2])([N:15]=[C:12]=[O:31])[c:37]1[cH:6][cH:3][c:36]([CH3:38])[cH:4][cH:7]1>>[O:1]=[S:5](=[O:2])([N-:15][C:12]([N:17]1[CH:19]=[C:32]2[N:10]([CH2:39][c:13]3[cH:23][cH:27][cH:34][cH:30][cH:26]3)[CH2:21][CH2:8][N+:18]3=[C:16]2[C:33](=[CH:20]1)[N:11]([CH2:40][c:14]1[cH:24][cH:28][cH:35][cH:29][cH:25]1)[CH2:22][CH2:9]3)=[O:31])[c:37]1[cH:6][cH:3][c:36]([CH3:38])[cH:4][cH:7]1", "epd": [["LP-/Pi+", [18], [16, 18]], ["Pi-/Pi+", [32, 16], [19, 32]], ["Pi-/Sigma+", [17, 19], [17, 12]], ["Pi-/LP+", [12, 15], [15]]]}
{"reaction_name": "Thia-Michael addition", "rsmi": "[O:2]=[N+:20]([O-:9])[c:16]1[cH:3][cH:5][c:10]([CH:17]=[CH:12][N+:15]([O-:19])=[O:21])[cH:6][cH:4]1.[S:1]([c:7]1[cH:22][cH:13][cH:11][cH:14][cH:23]1)([O-:8])=[O:18]>>[S+:1]([c:7]1[cH:22][cH:13][cH:11][cH:14][cH:23]1)([O-:8])([CH:17]([c:10]1[cH:5][cH:3][c:16]([N+:20](=[O:2])[O-:9])[cH:4][cH:6]1)[CH:12]=[N+:15]([O-:19])[O-:21])=[O:18]", "epd": [["LP-/Sigma+", [1], [1, 17]], ["Pi-/Pi+", [17, 12], [12, 15]], ["Pi-/LP+", [15, 21], [21]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[C:3]1([O:20][Si:11]([CH3:22])([CH3:23])[CH3:24])=[C:17]([CH3:15])[CH2:12][CH2:10][O:16]1.[N:1]1([S:4][C:13]([F:5])([F:6])[F:7])[S:2](=[O:18])(=[O:19])[c:8]2[c:25]([cH:21][cH:9][cH:26][cH:28]2)[C:27]1=[O:14]>>[C:3]1(=[O+:20][Si:11]([CH3:22])([CH3:23])[CH3:24])[O:16][CH2:10][CH2:12][C:17]1([S:4][C:13]([F:5])([F:6])[F:7])[CH3:15].[N:1]1=[C:27]([O-:14])[c:25]2[c:8]([cH:28][cH:26][cH:9][cH:21]2)[S:2]1(=[O:18])=[O:19]", "epd": [["LP-/Pi+", [20], [3, 20]], ["Pi-/Sigma+", [17, 3], [17, 4]], ["Sigma-/Pi+", [4, 1], [1, 27]], ["Pi-/LP+", [27, 14], [14]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:4][C:16]1=[C:18]([Cl:13])[C:7](=[O:9])[C:6](=[O:8])[C:19]([Cl:14])=[C:17]1[Cl:5].[S:1]([c:2]1[cH:20][cH:11][cH:10][cH:12][cH:21]1)([O-:3])=[O:15]>>[S+:1]([c:2]1[cH:20][cH:11][cH:10][cH:12][cH:21]1)([O-:3])([C:6]1([O-:8])[C:7](=[O:9])[C:18]([Cl:13])=[C:16]([Cl:4])[C:17]([Cl:5])=[C:19]1[Cl:14])=[O:15]", "epd": [["LP-/Sigma+", [1], [1, 6]], ["Pi-/LP+", [6, 8], [8]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:1]12=[N:6][CH2:10][CH2:20][CH2:18][N:11]1[c:7]1[c:15]([cH:5][cH:25][cH:19][cH:22]1)[S:12]2.[C:2](#[N:13])[C:21]([C:3]#[N:14])=[CH:4][c:23]1[cH:8][cH:16][cH:24][cH:17][cH:9]1>>[c:1]12[n+:11]([c:7]3[c:15]([cH:5][cH:25][cH:19][cH:22]3)[s:12]1)[CH2:18][CH2:20][CH2:10][N:6]2[CH:4]([C:21](=[C:2]=[N-:13])[C:3]#[N:14])[c:23]1[cH:8][cH:16][cH:24][cH:17][cH:9]1", "epd": [["LP-/Pi+", [11], [1, 11]], ["Pi-/Sigma+", [6, 1], [6, 4]], ["Pi-/Pi+", [4, 21], [21, 2]], ["Pi-/LP+", [2, 13], [13]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[K+:10].[cH:1]1[c:6]([O-:31])[cH:11][cH:7][cH:25][c:26]1[CH3:20].[cH:2]1[cH:12][cH:16][cH:15][cH:5][c:23]1[P:9](=[O:18])([c:24]1[cH:3][cH:13][cH:17][cH:14][cH:4]1)[N:27]=[CH:8][c:19]1[cH:29][cH:21][cH:28][cH:22][cH:30]1>>[K+:10].[cH:1]1[c:6]([O:31][CH:8]([c:19]2[cH:29][cH:21][cH:28][cH:22][cH:30]2)[N:27]=[P:9]([O-:18])([c:23]2[cH:2][cH:12][cH:16][cH:15][cH:5]2)[c:24]2[cH:3][cH:13][cH:17][cH:14][cH:4]2)[cH:11][cH:7][cH:25][c:26]1[CH3:20]", "epd": [["LP-/Sigma+", [31], [31, 8]], ["Pi-/Pi+", [8, 27], [27, 9]], ["Pi-/LP+", [9, 18], [18]]]}
